US08304446B2
3-{[3-{[(5-Bromo-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide
3-{[3-Amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide (for a preparation see Intermediate 12) (22 mg, 0.07 mmol) was dissolved in pyridine (1.6 mL) and added to 5-bromo-2-thiophenesulfonyl chloride (27 mg, 0.1 mmol). The reaction mixture was shaken at room temperature for 5 min and then stood overnight at room temperature. DMSO (0.2 mL) was added to the reaction mixture and purified by MDAP on Atlantis column using Acetonitrile Water with a Formic acid modifier. The solvent was evaporated in vacuo using the Genevac to give the title compound (4.6 mg, 12%) LCMS (System A) RT=1.04 min, ES+ve m/z 521/523 (M+H)+.

reactant | 3-{[3-Amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C(=O)N)C=CC1 | C16H16N4O2
reactant | 5-bromo-2-thiophenesulfonyl chloride | 0.1 mmol, 27 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | DMSO | 0.2 mL | CS(=O)C | C2H6OS
solvent | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
product | 3-{[3-{[(5-Bromo-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | 4.6 mg, 12% | BrC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C(=O)N)C=CC1 | C20H17BrN4O4S2
